US08217029B2
41.i) [(S)-1-(6-Methoxy-[1,5]naphthyridin-4-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
A mixture of 8-bromo-2-methoxy-[1,5]naphthyridine (1.50 g, 6.27 mmol, prepared as in WO 2006/032466) and (S)-(−)-3-(tert-butoxycarbonylamino)pyrrolidine (1.17 g, 6.27 mmol) in pentanol (5 mL) and DIPEA (1.24 mL, 1.2 eq) was heated at 80° C. over night. The majority of the solvent was removed in vacuo at elevated temperature (50-60° C.). The residue was triturated with ether to remove residual amine. The mother liquor was concentrated and the residue was chromatographed over SiO2 (DCM-MeOH—NH4OH 1000:50:4) to afford the desired intermediate as a beige foam (1.86 g, 86%).

reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | 6.27 mmol, 1.50 g | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
reactant | (S)-(−)-3-(tert-butoxycarbonylamino)pyrrolidine | 6.27 mmol, 1.17 g | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
reactant | DIPEA | 1.24 mL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | pentanol | 5 mL | C(CCCC)O | C5H12O
product | [(S)-1-(6-Methoxy-[1,5]naphthyridin-4-yl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 1.86 g, 86% | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C1=CC=NC2=CC=C(N=C12)OC)=O | C18H24N4O3
